US06469123B1
In an especially contemplated arm extension strategy depicted in FIG. 4, in which AD represents an adamantane or diamantane group. Phenylacetylene is a starting molecule that is reacted (A1) with TBA (supra) to yield tetrakis(mono-tolanyl)-adamantane. Alternatively, phenylacetylene can be converted (B1) to tolanylbromide that is subsequently reacted (C1) with trimethylsilylacetylene to form tolanylacetylene. TBA can then be reacted (A2) with tolanylacetylene to tetrakis(bistolanyl )-adamantane. In a further extension reaction, tolanylacetylene is reacted (B2) with 1-bromo-4-iodobenzene to bistolanylbromide that is further converted (C2) to bistolanylacetylene. The so formed bistolanylacetylene may then be reacted (A3) with TBA to yield tetrakis(tristolanyl)-adamantane.

reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | tolanylbromide | C=1(C(=CC=CC1)Br)C#CC1=CC=CC=C1 | C14H9Br
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
product | tolanylacetylene | C1(=C(C=CC=C1)C#C)C#CC1=CC=CC=C1 | C16H10
